US08859451B2
1.1a 2,6-Diacetylpyridine bis(2-chloro-4,6-dimethylphenylimine)
In a 200 ml round bottom flask, 2.0 g of 2,6-diacetylpyridine (M=163.176 g/mol, 0.0123 mol) and 75 ml of methanol were placed. Next 3.81 g of 2-chloro-4,6-dimethylaniline (M=155.627 g/mol, 0.0245 mole) and three drops of formic acid were added and the solution stirred at room temperature under nitrogen for four days, at which time no precipitate had formed. The reaction then was refluxed for 24 h. GC analysis indicated that the reaction was incomplete. Refluxing was continued for a total of 1 week. Solvent was stripped from the reaction mixture via rotary evaporator. Flash chromatography through a basic alumina column (eluted with hexane/ethyl acetate 20:1) lead to isolation of an oil. The oil was then crystallized from methanol/methylene chloride to receive pale yellow crystals.

reactant | 2,6-diacetylpyridine | 0.0123 mol, 2.0 g | C(C)(=O)C1=NC(=CC=C1)C(C)=O | C9H9NO2
reactant | 2-chloro-4,6-dimethylaniline | 0.0245 mole, 3.81 g | ClC1=C(N)C(=CC(=C1)C)C | C8H10ClN
catalyst | formic acid | three drops | C(=O)O | CH2O2
solvent | methanol | 75 ml | CO | CH4O
product | 2,6-Diacetylpyridine bis(2-chloro-4,6-dimethylphenylimine) | ClC1=C(C(=CC(=C1)C)C)N=C(C)C1=CC=CC(=N1)C(C)=NC1=C(C=C(C=C1C)C)Cl | C25H25Cl2N3
